US06136831
A suspension of 2-amino-5-fluorophenol (5.50 g, 43.3 mmol) and 85-92% lactic acid (6 g) in xylene was refluxed overnight while removing off water by-produced as a result of the reaction. After replacing the solvent with methylene chloride, the resultant mixture was washed with saturated aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride, dried over magnesium sulfate, and then concentrated. The resulting residue was subjected to recrystallization from a mixture of diisopropyl ether and hexane to afford 6-fluoro-2-(1-hydroxyethyl)benzoxazole (4.80 g, yield: 61%).

reactant | 2-amino-5-fluorophenol | 43.3 mmol, 5.50 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | lactic acid | 6 g | C(C(O)C)(=O)O | C3H6O3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6-fluoro-2-(1-hydroxyethyl)benzoxazole | 4.80 g, yield: 61% | FC1=CC2=C(N=C(O2)C(C)O)C=C1 | C9H8FNO2
